US04772600
2-(4-Chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:1.5]
Solid 2-(4-chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide (0.50 g) was dissolved in isopropyl alcohol and acidified with excess ethereal hydrogen chloride to produce a crystalline precipitate. The solid was collected, washed with ether, and dried under high vacuum at room temperature overnight to give 0.58 g (91%), mp 189°-91° C.

reactant | 2-(4-chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.50 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC=1C=NC=CC1 | C19H14ClN5O
reactant | hydrogen chloride | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-Chlorophenyl)-N-(3-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | O.Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC=1C=NC=CC1 | InChI=1S/C19H14ClN5O.ClH.H2O/c20-14-7-5-13(6-8-14)18-24-16-4-2-10-22-19(16)25(18)12-17(26)23-15-3-1-9-21-11-15;;/h1-11H,12H2,(H,23,26);1H;1H2
